US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-3-furamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide and 3-furoic acid using method B. NMR; δH CDCl3 8.10,(1H, s), 7.97,(1H, s), 7.78,(2H, d), 7.64,(1H, dd), 7.47,(1H, m), 7.38,(1H, d), 7.33,(2H, d), 7.24,(1H, d), 6.80,(1H, s), 6.36,(1H, t), 3.32,(2H, m), 2.21,(3H, s), 1.06,(1H, m), 0.57,(2H, m), 0.28,(2m). LCMS: retention time 3.38 min, MH+375.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 3-furoic acid | O1C=C(C=C1)C(=O)O | C5H4O3
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-3-furamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=COC=C1 | C23H22N2O3
